US08791132B2
To a degassed stirred solution of 2,8-dimethyl-5-(6-methyl-pyridin-2-ylethynyl)-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole (100 mg, 0.317 mmol) in MeOH (5 mL) was added Pd/C (35 mg, 35% w/w) and purged the reaction mixture with H2 gas at RT for 2 h. The progress of reaction was monitored by TLC and NMR. Reaction mass was filtered through a Celite bed washed with MeOH (3×5 mL). Filtrate was concentrated under reduced pressure and residue was purified by reverse phase HPLC to yield 2,8-dimethyl-5-[2-(6-methyl-pyridin-2-yl)-ethyl]-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole. 1H NMR (CD3OD, TFA salt) δ (ppm): 8.2 (dd, 1H), 7.63 (d, 1H), 7.57 (d, 1H), 7.21 (d, 1H), 7.02 (d, 1H), 6.96 (d, 1H), 4.7 (d, 1H), 4.58 (t, 2H), 4.37 (d, 1H), 3.82 (m, 1H), 3.57 (m, 1H), 3.4 (t, 2H), 3.2 (m, 2H), 3.18 (s, 3H), 2.61 (s, 3H), 2.4 (s, 3H).

reactant | 2,8-dimethyl-5-(6-methyl-pyridin-2-ylethynyl)-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | 0.317 mmol, 100 mg | CN1CC2=C(N(C=3C=CC(=CC23)C)C#CC2=NC(=CC=C2)C)CC1 | C21H21N3
solvent | MeOH | 5 mL | CO | CH4O
catalyst | Pd/C | 35 mg | [Pd] | Pd
product | 2,8-dimethyl-5-[2-(6-methyl-pyridin-2-yl)-ethyl]-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | CN1CC2=C(N(C=3C=CC(=CC23)C)CCC2=NC(=CC=C2)C)CC1 | C21H25N3
